US05808038
1,2-Bis(benzyltriazeno)ethane
A solution of 1.12 g (10 mmoles) of 1,2-diazidoethane in 20 ml. of THF was cooled to -60° C. This solution was treated with 15 ml of 2.0M benzylmagnesium chloride in THF (30 mmoles) dropwise with stirring. The reaction mixture was allowed to come to room temperature slowly, and was then cooled again to -60° C., and 10 ml. of ammonium buffer (see preparation above) was added and the reaction was allowed to come to room temperature. The reaction mixture was mixed with 100 ml. of diethylether and the organic layer was separated, dried over anhydrous sodium sulfate, and the solvent was removed on a rotary evaporator. The pink residual oil was subjected to high vacuum overnight, which produced a pale yellow solid. This material was crystallized from ether/pentane (1:1) to produce 1.71 g of colorless powdery solid m.p. 73°-75° C. Spectroscopy (nmr and mass) were consistent with the structure.

reactant | 1,2-diazidoethane | 10 mmoles, 1.12 g | N(=[N+]=[N-])CCN=[N+]=[N-] | C2H4N6
reactant | benzylmagnesium chloride | 2.0M, 15 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | ammonium | [NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 mmoles | C1CCOC1 | C4H8O
product | 1,2-Bis(benzyltriazeno)ethane | 1.71 g | C(C1=CC=CC=C1)NN=NCCN=NNCC1=CC=CC=C1 | C16H20N6
